US04478749
(S)-[2-Oxo-3-[(phenylacetyl)amino]-1-azetidinyl]phosphonic acid, dimethyl ester
3-[(Phenylacetyl)amino]-2-azetidinone (250 mg)was dissolved in a mixture of dry dimethylformamide (2 ml) and anhydrous tetrahydrofuran (5 ml). The mixture was cooled to -78° C., sec-butyllithium (0.83 ml of 1.4 N in cyclohexane) was added, stirring was continued for 8 minutes dimethylphosphorochloridate (187 μl) was added, and the mixture was stirred for 45 minutes at -78° C. After dilution with saturated aqueous sodium chloride and two extractions with ethyl acetate, the combined extracts were dried (sodium sulfate), filtered, and solvent was removed in vacuo yielding an oil. Thin-layer chromatography on plates developed in ethyl acetate gave the product as an oil which crystallized from ether. The solid was recrystallized from ethyl acetateether-pentane, triturated with ether, and dried in vacuo yielding 283 mg of the title compound as a powder, melting point 77.5°-81.5° C.

reactant | 3-[(Phenylacetyl)amino]-2-azetidinone | 250 mg | C1(=CC=CC=C1)CC(=O)NC1C(NC1)=O | C11H12N2O2
reactant | sec-butyllithium | 1.4 N, 0.83 ml | C(C)(CC)[Li]
reactant | dimethylphosphorochloridate | 187 μl | COP(OC)(=O)Cl | C2H6ClO3P
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-[2-Oxo-3-[(phenylacetyl)amino]-1-azetidinyl]phosphonic acid, dimethyl ester | O=C1N(C[C@@H]1NC(CC1=CC=CC=C1)=O)P(OC)(OC)=O | C13H17N2O5P
